USRE039112E1
3) Methyl 4-{6-amino-8-(3-fluorophenyl)-2-[2-(1-hydroxycyclohexyl)-1-ethynyl]-9H-9-purinyl}butanoate]
To 162 mg of methyl 4-[6-amino-8-(3-fluorophenyl)-2-iodo-9H-9-purinyl]butanoate were added 8 ml of N,N-dimethylformamide, 30 mg of copper(I) iodide, 30 mg of dichlorobis(triphenylphosphine)palladium(II)l, 80 mg of 1-ethylcyclohexanol and 74 μl of triethylamine and the mixutre was stirred in a nitrogen stream at 70° C. for 2.5 hours. After it was allowed to cool, the solvent was evaporated and the resulting reside was subjected to a silica gel column chromatography (25 g of silica gel; chloroform-methanol (100:0-100:1-50:1) to give 144 mg of the title compound. The yield was 90%.

reactant | methyl 4-[6-amino-8-(3-fluorophenyl)-2-iodo-9H-9-purinyl]butanoate | 162 mg | NC1=C2N=C(N(C2=NC(=N1)I)CCCC(=O)OC)C1=CC(=CC=C1)F | C16H15FIN5O2
reactant | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | 1-ethylcyclohexanol | 80 mg | C(C)C1(CCCCC1)O | C8H16O
catalyst | copper(I) iodide | 30 mg | [Cu]I
solvent | triethylamine | 74 μl | C(C)N(CC)CC | C6H15N
product | Methyl 4-{6-amino-8-(3-fluorophenyl)-2-[2-(1-hydroxycyclohexyl)-1-ethynyl]-9H-9-purinyl}butanoate | 144 mg, yield was 90% | NC1=C2N=C(N(C2=NC(=N1)C#CC1(CCCCC1)O)CCCC(=O)OC)C1=CC(=CC=C1)F | C24H26FN5O3
